US08633212B2
To a solution of 3-(1-oxo-1,2′,3,3′,5′,6′-hexahydrospiro[indene-2,4′-pyran]-6-yl)benzonitrile (42 mg, 0.139 mmol) in anhydrous DCM (10 mL) under N2 atmosphere was added 1 M TiCl4 (in DCM, 0.28 mL, 0.28 mmol) dropwise within 15 min at room temperature. It was stirred another 1 h after the addition. To this mixture was added Bis-trimethylsilylcarbodiimide (0.1 mL, 0.427 mmol) dropwise. The resulting mixture was stirred overnight. The reaction mixture was quenched with ice-water (20 g), and stirred for 20 min, then it was transferred to a separating funnel, the separated aqueous phase was extracted 2 times with DCM. The combined organic phases were dried over anhydrous Na2SO4, and filtered, and concentrated to give 44 mg of N-(5-(3-cyanophenyl)-2′,3′,5′,6′-tetrahydrospiro[indene-2,4′-pyran]-3(1H)-ylidene)cyanamide as light brown solid which was used for next step without further purification. MS ESI+ve m/z 328 (M+H)+.

reactant | 3-(1-oxo-1,2′,3,3′,5′,6′-hexahydrospiro[indene-2,4′-pyran]-6-yl)benzonitrile | 0.139 mmol, 42 mg | O=C1C2=CC(=CC=C2CC12CCOCC2)C=2C=C(C#N)C=CC2 | C20H17NO2
reactant | Bis-trimethylsilylcarbodiimide | 0.427 mmol, 0.1 mL | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.28 mmol, 1 M, 0.28 mL | Cl[Ti](Cl)(Cl)Cl
product | N-(5-(3-cyanophenyl)-2′,3′,5′,6′-tetrahydrospiro[indene-2,4′-pyran]-3(1H)-ylidene)cyanamide | 44 mg | C(#N)C=1C=C(C=CC1)C=1C=C2C(C3(CCOCC3)CC2=CC1)=NC#N | C21H17N3O
